US08071766B2
A mixture of (R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidine-5(6H)-thione (150 mg, 0.4 mmol), (2S,4R)-1-tert-butyl 2-methyl 4-(aminooxy)pyrrolidine-1,2-dicarboxylate (416 mg, 1.6 mmol), Hg(OAc)2 (256 mg, 0.8 mmol) and toluene (2 mL) was heated at 100° C. for 2 h. Cooled to rt, filtered through celite and purified to afford (2S,4R)-1-tert-butyl 2-methyl 4-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)pyrrolidine-1,2-dicarboxylate (172 mg, 570%) as off white solid. MS (ES) [M+H] calculated for C25H31BrFN6O5, 593.14. found 593.10.

reactant | (R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidine-5(6H)-thione | 0.4 mmol, 150 mg | NC=1N=C(C2=C(N1)C[C@@H](NC2=S)C2=C(C=C(C=C2)F)Br)C | C14H12BrFN4S
reactant | (2S,4R)-1-tert-butyl 2-methyl 4-(aminooxy)pyrrolidine-1,2-dicarboxylate | 1.6 mmol, 416 mg | NO[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H20N2O5
catalyst | Hg(OAc)2 | 0.8 mmol, 256 mg | [Hg](OC(=O)C)OC(=O)C
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (2S,4R)-1-tert-butyl 2-methyl 4-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)pyrrolidine-1,2-dicarboxylate | 172 mg, 570% | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/O[C@@H]2C[C@H](N(C2)C(=O)OC(C)(C)C)C(=O)OC)C2=C(C=C(C=C2)F)Br)C | C25H30BrFN6O5
